US06455528B1
(2) 1-(4,6-Diethoxypyrimidin-2-yl)piperazine
A solution of 1-acetyl-4-(4,6-diethoxypyrimidin-2-yl)piperazine (1.8 g) and sodium hydroxide (1.0 g) in ethanol (10 ml)—water (10 ml) was refluxed under heating for 11 hr. The reaction mixture was poured into water and extracted with chloroform. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated to give the title compound (1.6 g) as a pale-brown oil.

reactant | 1-acetyl-4-(4,6-diethoxypyrimidin-2-yl)piperazine | 1.8 g | C(C)(=O)N1CCN(CC1)C1=NC(=CC(=N1)OCC)OCC | C14H22N4O3
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(4,6-Diethoxypyrimidin-2-yl)piperazine | 1.6 g | C(C)OC1=NC(=NC(=C1)OCC)N1CCNCC1 | C12H20N4O2
